2121-02-25 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - lasix x1 - I/O net neg
   - ABG done this am for somulence, wnl.
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Cefipime - [**2121-2-24**] 08:55 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2121-2-24**] 10:23 PM
   Furosemide (Lasix) - [**2121-2-25**] 05:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-25**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.5
   HR: 117 (115 - 141) bpm
   BP: 108/79(86) {91/62(68) - 132/93(99)} mmHg
   RR: 16 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                    146 mL
                                                                     72 mL
   PO:
             TF:
   IVF:
                                                                    146 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    645 mL
   Urine:
                                                                    500 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -354 mL
                                                                   -573 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.38/47/85.[**Numeric Identifier 128**]/26/1
   PaO2 / FiO2: 85
   Physical Examination
   General: Alert, in moderate distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lung:  wheezes, rales, rhonchi on expiration
   CV: irregular rate and rhythm, normal S1 + S2, 2/6 systolic murmurs, no
   rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   311 K/uL
   9.4 g/dL
   140 mg/dL
   2.0 mg/dL
   26 mEq/L
   4.4 mEq/L
   44 mg/dL
   105 mEq/L
   141 mEq/L
   29.1 %
   5.1 K/uL
        [image002.jpg]
                             [**2121-2-24**]  09:23 PM
                             [**2121-2-25**]  03:41 AM
                             [**2121-2-25**]  06:47 AM
   WBC
   5.1
   Hct
   29.1
   Plt
   311
   Cr
   2.0
   TropT
   0.05
   TCO2
   28
   29
   Glucose
   140
   Other labs: PT / PTT / INR:15.9/29.1/1.4, CK / CKMB /
   Troponin-T:99/2/0.05, ALT / AST:45/61, Alk Phos / T Bili:78/0.2, Lactic
   Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:247 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   84 y/o F with hx of DM, CAD, CHF, COPD, afib, MM, HTN and CKD who
   presents today with worsening shortness of breath.
   # Shortness of Breath
Admssion physical was notable for bronchospasm.
   Chest X-ray on admission was suggestive of fluid overload vs infiltrate
   vs COPD exacerbation vs MI induced HF decompensation. She is on bipap.
   BNP was elevated ([**Numeric Identifier 12058**]); though not terribly fluid overloaded on exam
   If PNA, then possibly
aspiration
   - continue nasal canula
   - gentle diuresis for goal 500-1L negative daily
   - lasix bolus, nebs. (home dose is 40 mg PO), dampening response to
   lasix
   - continue vancomycin and cefepime for presumed HAP x 24-48 hours until
   cx positive or other indication
   - f/u on Bcx, MRSA screen, Ucx
   - transfer to cardiology floor when stable
   - f/u Cardiac enzymes
   .
   # Atrial fibrillation: Heart rate noted to be elevated to 130's. Dr.
   [**Last Name (STitle) **], her out-patient cardiologist, switched her to digoxin recently.
   - continue metoprolol, coumadin (subtherapeutic - given additional abx,
   will likely rise INR)
   - continue low dose of 0.125 mg digoxin Q twice a week (Tuesday and
   Saturday).
   - trend INR, no indication to bridge with heparin gtt to therapeutic
   INR
   .
   # Acute on chronic renal failure: On admission, creatinine was elevated
   at 2.5 from baseline in upper 1s. Throught to be
   pre-renal; patient was total body overloaded but intravascularly  dry,
   likely due to poor forward flow.  MM may contribute to this too.
   - renal dose meds
   - trend cr
   - consider urine lytes and urine eos if trending up
   .
   # Depressed mental status: baseline mental status is hard to assess,
   will retry in AM. likely [**12-24**] ARF/COPD exacerbation.
   - follow MS
   - may have to convert meds to IV if not confident in swallow status
   - clarify with [**Hospital3 **] re: how often she misses meds, meals
   # Coronary artery disease: Troponin was mildly elevated on
   admission at 0.09 in setting of ARF, likely a component of demand
   ischemia.
   - continue on aspirin, beta-blocker, atorvastatin
   .
   .
   # Multiple myeloma--required no management.
   - trend creatinine and electrolytes
   .
   # Anemia: Perhaps due to multiple myeloma. Remained stable at
   baseline.
   .
   # Seizure Disorder: no seizure activity noted.  dilantin level checked
   and found to be within normal limits.
   - continued on dilantin at a dose of 250 mg [**Hospital1 **].
   .
   # COPD/chronic bronchitis: remained on home nebulizer treatment.
   - on steroid currently
   .
   FEN: No IVF, replete electrolytes, cardiac diet
   .
   Prophylaxis: Subcutaneous heparin
   .
   Access: peripherals
   .
   Code:  dnr/dni, though there is some lack of clarity on how this can be
   documented. [**Hospital3 **] would not sign a form
   .
   Communication: Patient
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-2-24**] 08:09 PM
   20 Gauge - [**2121-2-24**] 08:10 PM
   Prophylaxis:
   DVT:  boots, coumadin
   Stress ulcer:  h2blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: dni, though there is some lack of clarity on how this can
   be documented. [**Hospital3 **] would not sign a form
   Disposition:

2121-02-25 09:05:00 Physician Attending Progress Note
Chief Complaint: SOB, AMS
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   84F w/ MMP, recent admits with similar presentation presents from NH
   after recent dc [**2-17**] with ams and SOB.  Unclear if she had been getting
   digoxin which was recently initiated. Treated for ? CHF, COPD exac and
   pna. Febrile 102.6 zosyn vanco for presumed pna. BNP 30K. Started nitro
   gtt, transiently on BiPAP.
   24 Hour Events:
   Treating for COPD/CHF.  Good urine outpt response to lasix.  Weaning
   O2. Continued steroids, nebs.  Antbx changed to vanco/cefe, cxs
   pending.
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Cefipime - [**2121-2-24**] 08:55 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2121-2-24**] 10:23 PM
   Furosemide (Lasix) - [**2121-2-25**] 05:23 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2121-2-25**] 08:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.9
C (98.5
   HR: 117 (115 - 141) bpm
   BP: 108/79(86) {91/62(68) - 132/93(99)} mmHg
   RR: 16 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                    146 mL
                                                                     86 mL
   PO:
             TF:
   IVF:
                                                                    146 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                    500 mL
                                                                    645 mL
   Urine:
                                                                    500 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -354 mL
                                                                   -559 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.38/47/85.[**Numeric Identifier 128**]/26/1
   PaO2 / FiO2: 85
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (Murmur: Systolic), irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Skin:  Not assessed
   Neurologic: Responds to: somnolent, unable to follow commands,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   311 K/uL
   140 mg/dL
   2.0 mg/dL
   26 mEq/L
   4.4 mEq/L
   44 mg/dL
   105 mEq/L
   141 mEq/L
   29.1 %
   5.1 K/uL
        [image002.jpg]
                             [**2121-2-24**]  09:23 PM
                             [**2121-2-25**]  03:41 AM
                             [**2121-2-25**]  06:47 AM
   WBC
   5.1
   Hct
   29.1
   Plt
   311
   Cr
   2.0
   TropT
   0.05
   TCO2
   28
   29
   Glucose
   140
   Other labs: PT / PTT / INR:15.9/29.1/1.4, CK / CKMB /
   Troponin-T:99/2/0.05, ALT / AST:45/61, Alk Phos / T Bili:78/0.2, Lactic
   Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:247 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.1 mg/dL
   Imaging: cxr with rotation, loss of l hemidiaphragm,full hilar vessels,
   cm
   Microbiology: cxs pending
   Assessment and Plan
   RESPIRATORY DISTRESS
now has improved. Suspect this was
   multifactorial, mainly related to CHF given very elevated BNP, afib, MR
   in setting of  inability to take PO meds [**12-24**] MS. Also may be component
   of COPD probable multifactorial, including COPD exacerbation.  Plan
   treat COPD exacerbation, CHF and infection.  Monitor serial ECG and
   cardiac enzymes.  Plan monitor RR, SaO2, ABG, repeat CXR.  Low
   threshold for intubation.
   Treat COPD, wean O2, gentle diuresis, recheck BNP.  I am not that
   impressed that she is very volume overloaded at this time, though her
   intiial presentation and pulm exam was quite consistent with pulm edema
   FEVER
 unclear source, ? aspiration.  , p[resumed pna.  Will continue
   antbx empirically for now and follow up cx data.  [**Month (only) 60**] reflect
   early/evolving sepsis, unclear etiology.  Concerns include respiratory
   tract infection such as bronchitis, evolving pneumonia (no obvious
   infiltates on CXR), UTI (recurrent).  Blood cultures, urine culture.
   Maintain empirical Vanco, Cefopime.  Monitor VS.  Await culture
   results.
   ELEVATED BNP -- acute elevation, close to baseline, on background of
   chronic elevation (renal failure, chronic CHF).  Monitor BNP.
   A-FIB -- Poor rate control currently, likely related to infection, CHF,
   COPD exacerbation and inability to take PO meds ins etting of poor MS.
   Change to IV BB, dig, follow level.
   ALTERED MENTAL STATUS -- poor baseline.  [**Month (only) 60**] be contribution of
   underlying seizure disorder (post-ictal;). Although no clinical
   evidence for seizures.  Monitor mental status.  Able to protect airway
   at this time.
   ANEMIA
 chronic, value near baseline.
   CAD
home regimen as able to take POs
   HYPERGLYCEMIA -- underlying diabetes mellitus, likely exacerbated by
   infection and high dose steroids. SSI,  Monitor glucose, maintain <150.
   NUTRITIONAL SUPPORT
 NPO while altered mental status.  Will need to
   clarify her PO intake, missing oral meds, as pt may need feeding tube
   for longterm issue
   ARF
likely from poor forward flow in setting of known sys CHF, follow
   uop
   Remote sz do
convert to iv dilantin
   Plans otherwise as outline per Resident note.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2121-2-24**] 08:09 PM
   20 Gauge - [**2121-2-24**] 08:10 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR/DNI
   Disposition : ICU
   Critically ill
   Total time spent:  45

2121-02-26 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - EGD - erosive esophagitis, no source of bleeding. IV PPI [**Hospital1 **]
   - IP - going to get trach'd tomorrow; NPO at MN, holding Sq Hep
   - ESBL Pseudomonas in the sputum  --> started [**Last Name (un) **] D1 is [**2-25**]
   - PICC placed
   - RIJ pulled --> sent for cx
   - 7pm HCT - 24.8 from 26.2
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Cefipime - [**2121-2-25**] 06:11 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2121-2-25**] 08:49 PM
   Furosemide (Lasix) - [**2121-2-25**] 09:00 PM
   Metoprolol - [**2121-2-26**] 06:13 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2121-2-26**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.3
C (97.3
   HR: 95 (80 - 114) bpm
   BP: 110/71(81) {84/41(55) - 120/73(82)} mmHg
   RR: 23 (12 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72 kg (admission): 71.7 kg
             Total In:
                                                                    830 mL
                                                                    312 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    590 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                    435 mL
   Urine:
                                                                  1,490 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -660 mL
                                                                   -123 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   267 K/uL
   7.8 g/dL
   119 mg/dL
   1.8 mg/dL
   26 mEq/L
   3.6 mEq/L
   45 mg/dL
   107 mEq/L
   141 mEq/L
   24.5 %
   4.5 K/uL
        [image002.jpg]
                             [**2121-2-24**]  09:23 PM
                             [**2121-2-25**]  03:41 AM
                             [**2121-2-25**]  06:47 AM
                             [**2121-2-25**]  05:26 PM
                             [**2121-2-26**]  04:24 AM
   WBC
   5.1
   4.5
   Hct
   29.1
   24.5
   Plt
   311
   267
   Cr
   2.0
   1.9
   1.8
   TropT
   0.05
   TCO2
   28
   29
   Glucose
   140
   119
   Other labs: PT / PTT / INR:18.1/31.2/1.6, CK / CKMB /
   Troponin-T:99/2/0.05, ALT / AST:45/61, Alk Phos / T Bili:78/0.2, Lactic
   Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:247 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
   84 y/o F with hx of DM, CAD, CHF, COPD, afib, MM, HTN and CKD who
   presents today with worsening shortness of breath.
   .
   # Shortness of Breath
Admssion physical was notable for bronchospasm.
   Chest X-ray on admission was suggestive of fluid overload vs infiltrate
   vs COPD exacerbation vs HF decompensation. BNP was elevated ([**Numeric Identifier 12058**]);
   though not terribly fluid overloaded on exam. Patient  tolerates PO
   well. On Abx, steroids, diuresis and nebs has progressed from bipap to
   nasal cannula
   - continue nasal canula
   - gentle diuresis for goal 500-1L negative daily
   - lasix bolus, nebs. (home dose is 40 mg PO), dampening response to
   lasix  --> may have to increase home dose
   - continue vancomycin and cefepime for presumed HAP x 24-48 hours until
   cx positive or other indication
   - f/u on Bcx, MRSA screen, Ucx
   - transfer to cardiology floor when stable
   .
   # Atrial fibrillation: Heart rate noted to be elevated to 130's. Dr.
   [**Last Name (STitle) **], her out-patient cardiologist, switched her to digoxin recently.
   - continue metoprolol, coumadin (subtherapeutic - given additional abx,
   will likely rise INR)
   - continue low dose of 0.125 mg digoxin Q twice a week (Tuesday and
   Saturday).
   - trend INR, no indication to bridge with heparin gtt to therapeutic
   INR
   .
   # Acute on chronic renal failure: On admission, creatinine was elevated
   at 2.5 from baseline in upper 1s. Throught to be pre-renal; patient was
   total body overloaded but intravascularly  dry, likely due to poor
   forward flow.  MM may contribute to this too.
   - renal dose meds
   - trend cr
   - consider urine lytes and urine eos if trending up
   .
   # Depressed mental status: baseline mental status is hard to assess,
   will retry in AM. likely [**12-24**] ARF/COPD exacerbation.
   - follow MS
   - may have to convert meds to IV if not confident in swallow status
   - clarify with [**Hospital3 **] re: how often she misses meds, meals
   .
   # Coronary artery disease: Troponin was mildly elevated on admission at
   0.09 in setting of ARF, likely a component of demand ischemia.
   - continue on aspirin, beta-blocker, atorvastatin
   .
   # Multiple myeloma--required no management.
   - trend creatinine and electrolytes
   .
   # Anemia: Perhaps due to multiple myeloma. Remained stable at baseline.
   .
   # Seizure Disorder: no seizure activity noted.  dilantin level checked
   and found to be within normal limits.
   - continued on dilantin at a dose of 250 mg [**Hospital1 **].
   .
   # COPD/chronic bronchitis: remained on home nebulizer treatment.
   - on steroid currently
   .
   FEN: No IVF, replete electrolytes, cardiac diet
   Prophylaxis: Subcutaneous heparin
   Access: peripherals
   Code:  dnr/dni, confirmed
   .
   Communication: Patient
   .
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2121-2-24**] 08:09 PM
   20 Gauge - [**2121-2-25**] 09:57 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2121-02-26 10:44:00 Physician Attending Progress Note
Chief Complaint: Acute SOB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Cefipime - [**2121-2-25**] 06:11 PM
   Vancomycin - [**2121-2-26**] 08:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2121-2-25**] 09:00 PM
   Metoprolol - [**2121-2-26**] 06:13 AM
   Famotidine (Pepcid) - [**2121-2-26**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, Dyspnea, No(t) Tachypnea, Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, No(t) Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2121-2-26**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**22**] AM
   Tmax: 36.8
C (98.3
   Tcurrent: 35.9
C (96.7
   HR: 99 (78 - 99) bpm
   BP: 118/77(86) {84/41(55) - 118/82(88)} mmHg
   RR: 19 (12 - 29) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 72 kg (admission): 71.7 kg
             Total In:
                                                                    830 mL
                                                                    596 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
                                                                    590 mL
                                                                    356 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                    545 mL
   Urine:
                                                                  1,490 mL
                                                                    545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -660 mL
                                                                     51 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , No(t) Crackles : , No(t) Bronchial: ,
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Oriented (to): w/o, Movement: Purposeful, No(t)
   Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.8 g/dL
   267 K/uL
   119 mg/dL
   1.8 mg/dL
   26 mEq/L
   3.6 mEq/L
   45 mg/dL
   107 mEq/L
   141 mEq/L
   24.5 %
   4.5 K/uL
        [image002.jpg]
                             [**2121-2-24**]  09:23 PM
                             [**2121-2-25**]  03:41 AM
                             [**2121-2-25**]  06:47 AM
                             [**2121-2-25**]  05:26 PM
                             [**2121-2-26**]  04:24 AM
   WBC
   5.1
   4.5
   Hct
   29.1
   24.5
   Plt
   311
   267
   Cr
   2.0
   1.9
   1.8
   TropT
   0.05
   TCO2
   28
   29
   Glucose
   140
   119
   Other labs: PT / PTT / INR:18.1/31.2/1.6, CK / CKMB /
   Troponin-T:99/2/0.05, ALT / AST:45/61, Alk Phos / T Bili:78/0.2, Lactic
   Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:247 IU/L, Ca++:7.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.6 mg/dL
   Assessment and Plan
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 ANEMIA, CHRONIC
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 SEIZURE, WITHOUT STATUS EPILEPTICUS
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, CHRONIC
 ATRIAL FIBRILLATION (AFIB)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   Presumed episode of CHF. Little to suggest infection. Has now improved
   and is nearing baseline in terms of breathing.  We suspect this was
   worsening CHF - will review meds but may tolerate incr beta blockade
   and will review if she is on afterload reduction.  Will d/c steroids
   given lack of evidence for bronchitis.
   ICU Care
   Nutrition:
   Comments: Full
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   18 Gauge - [**2121-2-24**] 08:09 PM
   20 Gauge - [**2121-2-25**] 09:57 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to other facility
   Total time spent: 35 minutes